US06498169B1
Synthesis of 4-[N-(4-Methoxyphenyl)-N-[[2-(3,4,5-trimethoxyphenyl)pyridin-3-yl]methyl]amino]-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine Trihydrochloride
To a solution of 4-(p-anisidino)-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine (139 mg) and 3-chloromethyl-2-(3,4,5-trimethoxyphenyl)pyridine (114 mg) in acetonitrile (5 ml) was added potassium carbonate (83 mg) and potassium iodide (63 mg). The mixture was stirred at 70° C. overnight and evaporated. The residue was dissolved in chloroform, washed with water and brine, dried over anhydrous magnesium sulfate and evaporated. The residual oil was applied to a column of silica gel using diethylether-metanol (20:1) as an eluent. A free base obtained was converted to a trihydrochloride to give the title compound as yellow powder.

reactant | 4-(p-anisidino)-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine | 139 mg | COC1=CC=C(C=C1)NC1CCN(CC1)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C27H33N3O4
reactant | 3-chloromethyl-2-(3,4,5-trimethoxyphenyl)pyridine | 114 mg | ClCC=1C(=NC=CC1)C1=CC(=C(C(=C1)OC)OC)OC | C15H16ClNO3
reactant | potassium carbonate | 83 mg | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 63 mg | [I-].[K+]
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 4-[N-(4-Methoxyphenyl)-N-[[2-(3,4,5-trimethoxyphenyl)pyridin-3-yl]methyl]amino]-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine Trihydrochloride | Cl.Cl.Cl.COC1=CC=C(C=C1)N(CC=1C(=NC=CC1)C1=CC(=C(C(=C1)OC)OC)OC)C1CCN(CC1)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | InChI=1S/C42H48N4O7.3ClH/c1-47-34-12-10-32(11-13-34)46(27-29-9-8-17-44-40(29)31-24-38(50-4)42(53-7)39(25-31)51-5)33-15-19-45(20-16-33)26-28-14-18-43-35(21-28)30-22-36(48-2)41(52-6)37(23-30)49-3;;;/h8-14,17-18,21-25,33H,15-16,19-20,26-27H2,1-7H3;3*1H
